US06313145B1
5-Nitro-2-(pyridin-2-ylmethyloxy)pyridine (D1)
2-Pyridylcarbinol (7.5 g, 0.069 mole) in dry dimethylformamide (190 ml) was cooled to −20° C. and treated with an 80% dispersion of sodium hydride in mineral oil (2.07 g, 0.069 mole) under argon. The mixture was stirred at −20° C. for two hours. 2-Chloro-5-nitropyridine (8.83 g, 0.058 mole) was added and the mixture was stirred at −20° C. for 0.5 hour then warmed to room temperature and stirred for 18 hours. Water was added dropwise and the solvent removed in vacuo. The residue was dissolved in dichloromethane, washed with 10% aqueous sodium hydroxide solution followed by water, dried (Na2SO4) and evaporated in vacuo to afford the title compound (12.2 g, 91%) as an orange solid.

reactant | 2-Pyridylcarbinol | 0.069 mole, 7.5 g | N1=C(C=CC=C1)CO | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-Chloro-5-nitropyridine | 0.058 mole, 8.83 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | Water | O | H2O
solvent | dimethylformamide | 190 ml | CN(C=O)C | C3H7NO
product | 5-Nitro-2-(pyridin-2-ylmethyloxy)pyridine | 12.2 g, 91% | [N+](=O)([O-])C=1C=CC(=NC1)OCC1=NC=CC=C1 | C11H9N3O3
